Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want to retire"
 
Major Surgical or Invasive Procedure:
None this admission
 
History of Present Illness:
Per Dr. ___, Dr. ___ Dr. ___ and admission 
initial admission notes:  

___ y/o M with h/o schizophrenia, catatonia, multiple
prior psychiatric admissions, sent to ___ on a ___ by his
psychiatrist ___ after reporting a prior suicide
attempt to her, for suicidal ideation, psychosis, anxiety,
failure to utilize PO antipsychotic medications, and inability 
to
care for himself in the community. 

Seen in the BI ___ on ___, at which time he was assessed as
experiencing decompensated psychosis, possibly responding to
internal stimuli, with disorganized thought process and odd
thought content. He was admitted to ___ on ___ and
discharged on ___ on Zyprexa 15 mg PO daily.
Notably, he did fill the medication yesterday, but he reports
that he did not take it, because of his concern about a side
effect of making his eyes red. Today, he saw his new outpatient
psychiatrist, Dr. ___, who was concerned about his
suicidal ideation, anxiety, delusional thoughts, disorganized
thought process, and active psychosis. She sent him to the BI ___
on a ___. 

Before seen by psychiatry, nursing staff noted that patient
initially denies SI, but then a minute later stated: "I want to
kill myself." He reportedly said that his plan would be to take
aspirin. 

When seen by psychiatry early this afternoon in the emergency
room (___), Mr. ___ is unable to fully participate
in the interview. His answers were intermittently intelligible,
but often bizarre or difficult to interpret. When asked if he
wanted to harm anyone, he said to this writer, "You," and then
burst out laughing. When asked if he wants to hurt himself, he
says, "I don't know." When asked if anyone wanted to hurt him, 
he
said, "Yes, all Israelis." When asked why they wanted to hurt
him, he said, "Because I'm single." 

In addition, he was perseverative on his apartment rent, stating
that he wants to go back to work, and repeatedly asking about
getting a letter to be excused for missing work. He also made
various remarks with no clear relation to context of interview,
for instance, talking about his leg pain, and then saying, "I've
been walking for days." When asked where he was walking, he 
said,
"to ___ and he also spoke about monks burning a building
in ___. He also repeatedly expressed negative feelings 
about
BI, stating at one point, "I hate this place," and other similar
statements. 

When seen by the attending psychiatrist, Mr. ___ continued to
be difficult to communicate with, and was uncooperative with
establishing a comfortable physical distance between himself and
the interviewer. He also asked for a gun -- then making a 
gesture
as if he were going to shoot himself in the head. 

COLLATERAL:
 - ___
   ___
   ___
 - ___ states:
    - A. Mental Illness: "Pt very nice man from ___ in ___ 
___,
works at the pathology dep at the ___. History of Catatonia. Now
psychotic, disorganized, anxious."
    - B. Inability to care for self in community: "thinks of
suicide. history of attempt. tried to stab self in the stomach."
 - Telephone call with psychiatrist (___): 
 - summary: Psychiatrist saw pt for the first time today, was
concerned about acute psychosis, inability to care for self,
history of suicide attempt, and current suicide risk, and was
sent here on a ___. Patient has not been taking PO
medications, and his psychiatrist feels he would benefit from an
injectable medication. She would like to be his outpatient
psychiatrist after he is discharged.
 - detailed: First time seeing him. Very nice ___. Multiple
hospitalizations. From ___. Came to this ___ age ___.
Graduated at ___. Working at ___ as his___.
Never follows through with oral medications. He has been just
discharged about a few days ago from ___, where
he was commited for severe catatonia, with AH/VH. Discharged him
on an oral medication. Saw him today. He needs to go back to 
work
so he can send money to his family. Because I'm ___, I'm an
immigrant, I know how it is. He cannot concentrate right now.
Told him: want you to go back to the hospital to get IM
medication. When you come back, I'll be your doctor, and I'll
help you, and when your concentration comes back, I'll send you
back to work. Right now, shot medication -- you cannot
concentrate, you're anxious. "I wanted to take pen" (off
psychiatrist's desk), bizarre statements. Very worred about rent
which has been raised. I was able to convince to go to hospital.
He liked the idea, told him I was an immigrant, will see you
right when you go out. Danger here. As we were talking, more
info. He said he tried to stab himself, but he could not clarify
when it was. He said, sometime back I was desperate. He 
indicated
the gesture of stabbing himself in the stomach, but also stated
he had tried. Really, he's still psychotic. He said, my boss
(call for emergency). He said, try to call my dad. No family in
the ___. Agonizing over returning to employment. Want
him to be hospitalized... Very bizarre and repetitive, but 
denied
AH/VH. "He said I see this stephanopolos ___, I don't like him."
He was paranoid that the CIA were after him. I really want them
to start him on IM medications. If they don't, it's going to be 
a
repetition of what happened. Thinks he is not as sick now 
because
of hospitalization. 
discharge meds from ___ (___)
 - noncompliant with some meds while inpt
 - Zyprexa 15 mg PO"

In the ___:

Pt received the following:

___ 21:57 PO OLANZapine 15 mg
___ 13:25 PO OLANZapine 5 mg
___ 21:55 PO OLANZapine 15 mg

On interview today, pt was disorganized and required frequent
redirection to participate in interview. Pt states repeatedly, 
"I
want to retire," and, "I think I have to leave my job." He asks
multiple times if he will lose his insurance if he leaves his
job. He also states that he lives in ___, and his rent
was recently increased $55 per month. When asked if this caused
him stress he states, "yes, but I know what I will do, I will
___ He clarifies that he has driven ___ in the past to
supplement his income as a ___. Pt will not tell me
where he works, states, "I can't tell you that." 

He initially says that he is at ___" but then 
says
he is at ___ He states, "my psychiatrist sent me
here." He is unsure why. He does state, "I don't want to kill
myself," but denies SI, plan, intent, or thoughts of ___.
He reports that he was recently at ___, and states, "I
liked it there." When asked what he liked, he states, "the
toilets." He does endorse paranoia, saying, "everyone here is
trying to get me." He repeatedly asks to take a shower. He
states, "I don't want to take shots, they make me suicidal," and
says, "I have been taking my medications here in the hospital."

Pt asks to share a story during our interview, stating that his
grandmother died ___ ago and since that time, he has not
dreamt of her. "I don't believe in the resurrection of the
dead," he states repeatedly. Pt also states, "I don't want 
shots,
please don't put me on the shot." He states that he was
previously on a ___ injectable and it "made me 
suicidal."
He states, "I will take medications."
 
Past Medical History:
- PCP: unknown
- ___ of head trauma: denies
- Hx of seizure: denies
- PMHx: denies
 
Social History:
SUBSTANCE USE HISTORY
Tobacco: Denies.
Alcohol: states use is "occasional" will not quantify
Cannabis: reports "occasional use," denies daily use
Illicits: Denies.

FORENSIC HISTORY
- Arrests: 
     - denies
- Convictions and jail terms: 
     - denies
- Current status (pending charges, probation, parole): 
     - denies

SOCIAL HISTORY
- B/R: born in ___, moved to ___ in ___
- Family: no family in ___
- Primary supports: pt denies any close friends and states that
he has no relatives here, he says that his source of support is
"work"
- Housing: lives independently in ___, rent recently
increased which adds to stress
- Education: attended ___, studied Biochemistry
- Employment/income: works in gross specimen pathology at ___, 
but
possibly currently on leave from work. 
- Spiritual: Catholic, strongly desired to attend church on day
of admission (___), stating, "I specifically wanted to go
today."
- Access to weapons: denies
 
Family History:
FAMILY PSYCHIATRIC HISTORY
- Fam Dx: denies
- Fam Hospitalizations: denies
- Fam Treatment Hx/Med Trials: denies
- Fam Hx Suicide: denies
 
Physical Exam:
ADMISSION:
Temp: 97.6 HR: 62bpm BP: 111/70 RR: 16 SpO2: 100% on RA

GENERAL
- HEENT: 
     - normocephalic, atraumatic
     - moist mucous membranes, oropharynx clear, supple neck
     - no scleral icterus
- Cardiovascular: 
     - regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
- Pulmonary: 
     - no increased work of breathing
     - lungs clear to auscultation bilaterally
     - no wheezes/rhonchi/rales
- Abdominal: 
     - ___, bowel sounds normoactive
     - no tenderness to palpation in all quadrants
     - no guarding, no rebound tenderness
- Extremities: 
     - warm and ___
     - no edema of the limbs
- Skin: 
     - no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI difficult to assess, as pt frequently
closes eyes during exam, but no CN palsy appreciated, no
nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Gait: 
     - good initiation
     - ___, normal stride and arm swing
     - able to walk in tandem without difficulty

COGNITION 
- Wakefulness/alertness: 
     - awake and alert
- Attention: 
     - MOYB, initiates multiple times and quickly completes 
until
___, then stops. States that he cannot go past ___ and
laughs inappropriately
- Orientation: 
     - oriented to person, time, place (initially states that he
is at ___, then states he is at ___), situation (intermittently
understands that he is on psychiatric inpatient unit, but keeps
wanting to talk about job and insurance benefits)
- Executive function ___ go, Luria, trails, FAS): 
     - not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - ___ grossly intact
- Fund of knowledge: 
     - consistent with education; talks about how he doesn't 
like
Newtonian physics, also discusses that he likes "Atlas Shrugged"
     - intact to last 1 president, cannot name any prior
- ___: 
     - refuses to participate
- Abstraction:  
     - bicycle/train: both have wheels, both have spokes
     - watch/ruler: both "measure time" cannot elaborate
- Visuospatial: 
     - not assessed
- Language: 
     - fluent ___ speaker, no paraphasic errors, appropriate
to conversation

MENTAL STATUS
- Appearance: 
     - man appearing stated age, adequate grooming, wearing
hospital gown, in no apparent distress
- Behavior: 
     - seated in chair, intense, prolonged eye contact,
psychomotor agitation with pt frequently standing up and
attempting to leave room, but redirectable
- Attitude: 
     - cooperative at most times, occasionally will not answer
questions, overall pleasant
- Mood: 
     - "great. I love this tea"
- Affect: 
     - ___, restricted, occasional inappropriate
laughter after asked a question, at most times during interview,
pt is very serious and deliberate
- Speech: 
     - normal rate, volume, monotone prosody
- Thought process: 
     - tangential, perseverative on retirement, insurance
coverage, then on "resurrection of the dead", pt also tells 
story
about Newtonian physics that displays some loosening of
associations (states that ___ does not have
benches, which makes him not like ___ or Newtonian physics,
"who can see and apple fall?"
- Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: Evidence of paranoia, states that he does not
feel safe on unit and that "people are going to get me,"
intermittently won't answer questions and appears nervous about
this interview
     - Obsessions/Compulsions: Pt does tap table at one point,
and looks nervous when I ask him about action, does not endorse
obsessions/compusions
     - Hallucinations: Denies AVH, at times quiet, unclear if
responding to internal stimuli
- Insight: 
     - limited
- Judgment: 
     - poor

ON DISCHARGE:
Mental Status Exam:
Appearance: well groomed, taking showers
Facial expression: friendly, appropriate
build: WNL
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect: "OK", stable, hopeful, no irritability
Thought Process/content: reality oriented, goal directed, denies 

SI/HI, denies AH/VH/paranoid delusions, 
Intellectual Functioning: OK concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
___ 05:15PM   ___
___ 01:00PM   ALT(SGPT)-15 AST(SGOT)-19 ALK ___ TOT 
___
___ 01:00PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 01:00PM   ___ 
___
___ 01:00PM   ___ HDL ___ 
LDL(CALC)-69
___ 01:00PM   ___
___ 01:00PM   ___ 
___
___ 01:00PM   PLT ___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which was 
scheduled to expire on ___. On ___, the patient signed a 
conditional voluntary agreement (Section 10 & 11) and remained 
on that level throughout the rest of their admission. He was 
also placed on 5 minute checks status on admission, with 
restricted sharps access and unit restricted. Patient was 
advanced to supervised sharps access and 15 minute checks. 
However, patient was determined to be flight risk by nursing 
staff as he made gestures as if he was attemping to leave the 
unit. As such, patient was placed again on 5 minute checks.
 
2. PSYCHIATRIC:

On presentation to the ___, patient was possibly responding to 
internal stimuli, with a notable disorganized thought process 
and odd thought content. He initially denied suicidal ideation, 
but then stated he wanted to kill himself to nursing staff and 
said that his plan would be to take aspirin. On interview in the 
___, he was unable to fully participate in the interview. His 
answers were intermittently intelligible, but often bizarre or 
difficult to interpret. His answers to safety assessment were 
vague. He notably was uncooperative with establishing a 
comfortable physical distance between himself and the 
interviewer. He also asked for a gun -- then made a gesture as 
if he were going to shoot himself in the head.  

On admission interview, the patient was disorganized and did not 
seem to know why he was in the hospital aside from his 
psychiatrist sending him after discharge from ___ on 
___. Patient denied SI, plan, intent, HI, AH, VH, delusions. 
He was paranoid on interview, stating that he did not feel safe 
in hospital and was worried staff was "out to get him." He could 
not further elaborate on those thoughts. 

Throughout admission, patient continued to have evidence of 
paranoia, repeatedly stating that he did not like this place and 
was insistent on leaving the hospital. He remained largely 
disorganized, concrete, with limited insight, and was 
perseverative on getting a note to retire from work. His affect 
was mood incongruent, inappropriately laughing at times and at 
other times grimacing, closing his eyes intensely for ___ 
seconds at a time. When asked about this, patient stated that he 
was “blocking out evil thoughts,” though could not elaborate 
further on this. This was suggestive that he may be responding 
to internal stimuli. Patient's presentation was concerning for 
decompensated psychosis. 

Patient was initially treated with zyprexa 15mg nightly, his 
home dose. This was increased to 20mg nightly with limited 
improvement in psychotic behavior and thought processes. He was 
observed self dialoguing by nursing staff. Patient seemed 
somewhat sedated from this medication. As such, zyprexa was 
discontinued and patient was started on risperidone 2mg PO BID. 
Patient was initially resistant to starting long acting 
injectable medication, though after several days on the unit and 
further discussion, patient agreed to long acting Risperdal 
consta 25mg injection. He received the first injection on ___. 
Risperidone PO dosage was increased to 3mg PO BID. Patient was 
additionally started on Cogentin 1mg nightly.
Patient was insistent and perseverative that he needed to leave 
the hospital and return to work, stating he was not having side 
effects from the medication and he felt "upbeat" though this was 
incongruent with his affect. He was noted to be running in the 
hallways and determined to be an elopement risk. He became very 
frustrated when he was told that his treatment team strongly 
recommended he remain in the hospital for further care until he 
gets better, though he was able to remain in behavioral control 
during interviews with team. He remained concrete, though was 
able to converse more easily. He gradually improved. He attended 
groups over the weekend and found to make meaningful 
contributions. When observed ___ he was socializing with 
peers more, appropriate, good boundaries awareness.   On 
discharge, he was pleasant, engaging, didn't volunteer any 
delusional content, no longer self dialoguing. He seemed 
committed to take his medications. 

3. SUBSTANCE USE DISORDERS: Patient denied any substance use. 
 
4. MEDICAL
# Urinary frequency: Patient describes increased urinary 
frequency beginning during admission at ___. UA and urine 
culture negative for infection. Negative for urine GC/chlamydia. 
No further workup pursued. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  
Initially, declined groups, later participating intermittently, 
and more motivated to attend groups when felt better, as 
mentioned above. 

#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Collateral was obtained from patient’s psychiatrist as above. He 
additionally gave permission for primary team to speak with his 
mother  (completed) and supervisor at work (never returned 
calls). Patietn’s mother has not seen her son in a year. She 
stated "he is a good boy, I raised him well. He just needs to 
take his medications, but he doesn't take them, what can I 
do..." Provided clinical update. Mother had no concerns, but 
seemed to be minimizing the mental health problems.

#) INTERVENTIONS
- Medications: zyprexa, risperidone, Risperdal consta 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: appointments coordinated with 
patient’s outpatient therapist, psychiatrist, and PCP
- ___ (e.g. encouraged DBT skills, etc): 
encouraged coping skills, psychosocial support
-Guardianships: None identified

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting risperidone, Risperdal consta, and risks and benefits 
of possible alternatives, including not taking these 
medications, with this patient.   We discussed the patient's 
right to decide whether to take these medications as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon his 
history of suicide attempts, history of chronic mental illness, 
recent discharge from an inpatient psychiatric unit, male 
gender, and marital status (single). 

His modifiable risk factors included unclear suicidal ideation, 
psychosis, disorganized and unpredictable behavior, medication 
noncompliance at home, social withdrawal, limited social 
supports, and poor reality testing. These were primarily 
addressed with medication adjustment, including starting 
risperidone PO and Risperdal consta 25mg long acting injection 
every 2 weeks. 

Finally, the patient is being discharged with many protective 
risk factors,  including ___ nature, ___ 
viewpoint, sense of responsibility to family Mother), life 
satisfaction, reality testing ability, better coping skills,  
lack of suicidal ideation, no history of substance use disorder. 

Overall, the patient is not at an acutely elevated risk of 
___ nor danger to others due to acutely decompensated 
psychiatric illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 15 mg PO DAILY 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  RisperiDONE 3 mg PO BID 
RX *risperidone 3 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective disorder, bipolar type
Anxiety nos

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___